US08865758B2
In a three-necked flask, under a N2 atmosphere, 0.300 g (0.92 mmol) of ethyl 1-[(4-methyl phenyl)sulfonyl]-4-oxopiperidine-3-carboxylate and 0.099 g (0.92 mmol) of phenyl hydrazine were stirred in 3 mL of EtOH for 1 h at 50° C. HPLC and UPLC-MS analysis revealed the formation of the hydrazone intermediate. After having cooled to room temperature, a solution of EtONa/EtOH—prepared by dissolution of 42 mg (1.84 mmol) of Na in 2 mL of EtOH—was added to the reaction mixture and it was stirred for 1 additional hour at room temperature (reaction monitored by HPLC and UPLC-MS). The reaction mixture was diluted with brine (10 mL) and extracted with ethylacetate (50 mL×3). The combined organic phases were dried over Na2SO4 and evaporated. The crude (400 mg) was purified by silica flash chromatography using ethylacetate/petroleum ether (80/20, gradient to 100% ethylacetate) yielding 84 mg of a white solid as the desired 5-[(4-methylphenyl)sulfonyl]-2-phenyl-1,2,4,5,6,7-hexahydro-3H-pyrazolo[4,3-c]pyridin-3-one (25% yield). 1HNMR (500 MHz, DMSO-d6): 3.95 (s, 3H); 2.64 (t, J=5.5 Hz, 2H); 3.17 (d, J=5 Hz, 2H); 3.30 (m, 2H, hidden by H2O); 7.20 (t, J=7.25 Hz, 1H); 7.40-7.45 (m, 4H); 7.65-7.7 (m, 4H); 11.36 (bs, NH); 370.

reactant | ethyl 1-[(4-methyl phenyl)sulfonyl]-4-oxopiperidine-3-carboxylate | 0.92 mmol, 0.300 g | CC1=CC=C(C=C1)S(=O)(=O)N1CC(C(CC1)=O)C(=O)OCC | C15H19NO5S
reactant | phenyl hydrazine | 0.92 mmol, 0.099 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | EtONa EtOH | CC[O-].[Na+].CCO
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | brine | 10 mL | [Cl-].[Na+].O
product | 5-[(4-methylphenyl)sulfonyl]-2-phenyl-1,2,4,5,6,7-hexahydro-3H-pyrazolo[4,3-c]pyridin-3-one | 25% yield | CC1=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)NN(C2=O)C2=CC=CC=C2 | C19H19N3O3S
